US07531539B2
212B. Preparation of benzyl 4-(6-methoxypyridin-3-yl)-2,3-dihydro-1H-pyrrole-1-carboxylate
A solution of benzyl 4-(trifluoromethylsulfonyloxy)-2,3-dihydro-1H-pyrrole-1-carboxylate (200 mg, 0.57 mmol) in THF (10 mL) was purged with nitrogen for 10 minutes. The mixture was treated with K2CO3 (200 mg, 1.44 mmol), 6-methoxypyridin-3-ylboronic acid (100 mg, 0.66 mmol), tetrakis(triphenyl-phosphine)palladium (10 mg, 0.008 mmol), and water (100 μL). The reaction mixture was then heated to reflux for 16 hours. The reaction was treated with saturated aqueous NaHCO3 (20 mL) and then extracted with ethyl ether (20 mL). The organic layer was washed with saturated aqueous NaCl (20 mL), and then dried over Na2SO4. The crude mixture was filtered, concentrated and purified by flash chromatography (SiO2, 50% ethyl acetate/hexane) to afford the title compound (100 mg, 57%). 1HNMR (500 MHz, CDCl3) δ 8.05 (m, 1H), 7.55 (m, 1H), 7.30 (m, 5H), 6.66 (m, 1H), 5.98 (m, 1H), 5.13 (m, 2H), 4.44 (m, 2H), 4.30 (m, 2H), 3.86 (s, 3H).

reactant | benzyl 4-(trifluoromethylsulfonyloxy)-2,3-dihydro-1H-pyrrole-1-carboxylate | 0.57 mmol, 200 mg | FC(S(=O)(=O)OC=1CCN(C1)C(=O)OCC1=CC=CC=C1)(F)F | C13H12F3NO5S
reactant | K2CO3 | 1.44 mmol, 200 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-methoxypyridin-3-ylboronic acid | 0.66 mmol, 100 mg | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 100 μL | O | H2O
product | benzyl 4-(6-methoxypyridin-3-yl)-2,3-dihydro-1H-pyrrole-1-carboxylate | 100 mg, 57% | COC1=CC=C(C=N1)C=1CCN(C1)C(=O)OCC1=CC=CC=C1 | C18H18N2O3
